US06066657
4-Bromo-2-bromomethyl-7-methoxy-benzofuran
Carbon tetrabromide (1.52 g) was added to a stirred solution of (4-bromo-7-methoxybenzofuran-2-yl)-methanol (1 g) in dichloromethane (10 ml) at 0° C. under an inert atmosphere. Triphenylphosphine (1.53 g) was then added and the reaction stirred for 1 h. The reaction mixture was preadsorbed onto silica and purified by column chromatography eluting with 25% ethyl acetate in hexane to afford the title compound as a yellow solid (0.78 g).

reactant | Carbon tetrabromide | 1.52 g | C(Br)(Br)(Br)Br | CBr4
reactant | (4-bromo-7-methoxybenzofuran-2-yl)-methanol | 1 g | BrC1=CC=C(C2=C1C=C(O2)CO)OC | C10H9BrO3
reactant | Triphenylphosphine | 1.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Bromo-2-bromomethyl-7-methoxy-benzofuran | 0.78 g | BrC1=CC=C(C2=C1C=C(O2)CBr)OC | C10H8Br2O2
